US09238640B2
To a degassed solution of N-(4-formyl-2-iodo-phenyl)-acetamide (0.810 g, 2.82 mmol) in DMF (25 mL) and triethylamine (5 mL) were added PdCl2(PPh3)2 (0.10 g, 0.14 mmol) and copper (I) iodide (0.16 g, 0.85 mmol). A degassed solution of but-3-yn-1-ol (0.27 g, 0.29 mmol) in DMF (8 mL) and triethylamine (2 mL) was added at 80° C. over a period of 1 hour under nitrogen. After the addition, the reaction mixture was stirred at 80° C. for 4 hours, cooled to room temperature, and concentrated under reduced pressure. The residue was diluted with water (100 mL) and extracted with ethyl acetate (200 mL). The organic phase was washed with brine (100 mL) and dried over anhydrous Na2SO4. Removal of solvent gave N-[4-formyl-2-(4-hydroxy-but-1-ynyl)-phenyl]-acetamide as a brown solid. Crude yield: 0.85 g (100%). The crude material was used in next step without further purification.

reactant | N-(4-formyl-2-iodo-phenyl)-acetamide | 2.82 mmol, 0.810 g | C(=O)C1=CC(=C(C=C1)NC(C)=O)I | C9H8INO2
reactant | but-3-yn-1-ol | 0.29 mmol, 0.27 g | C(CC#C)O | C4H6O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
catalyst | PdCl2(PPh3)2 | 0.14 mmol, 0.10 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.85 mmol, 0.16 g | [Cu]I
product | N-[4-formyl-2-(4-hydroxy-but-1-ynyl)-phenyl]-acetamide | C(=O)C1=CC(=C(C=C1)NC(C)=O)C#CCCO | C13H13NO3
